US08048904B2
4-(1-Hydroxy-1-methylethyl)-2-propyl-1-{4-[2-(trityltetrazol-5-yl)phenyl]phenyl}methylimidazole-5-carboxylic acid dehydrate (100 g) was suspended in acetone (1 L) & heated to reflux; the solution obtained was added to suspension of potassium carbonate (15 g), potassium iodide (6 g) & 4-chloromethyl-5-methyl-1,3-dioxol-2-one (35 g) in acetone (500 mL) at reflux temperature. Reaction mass was refluxed for 2-6 hrs. After competition of reaction, the reaction mass was filtered & the acetone was distilled from combined mother liquor. The residue obtained was dissolved in toluene (1 L) toluene layer was washed with brine (3×250 mL). Toluene was removed under reduced pressure & residue thus obtained was recrystallized from methanol to give trityl Olmesartan

reactant | 4-(1-Hydroxy-1-methylethyl)-2-propyl-1-{4-[2-(trityltetrazol-5-yl)phenyl]phenyl}methylimidazole-5-carboxylic acid | 100 g | OC(C)(C)C=1N=C(N(C1C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C43H40N6O3
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 6 g | [I-].[K+]
reactant | 4-chloromethyl-5-methyl-1,3-dioxol-2-one | 35 g | ClCC=1OC(OC1C)=O | C5H5ClO3
solvent | acetone | 1 L | CC(=O)C | C3H6O
solvent | acetone | 500 mL | CC(=O)C | C3H6O
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | trityl Olmesartan | CCCC1=NC(=C(N1CC2=CC=C(C=C2)C3=CC=CC=C3C4=NN=NN4C(C5=CC=CC=C5)(C6=CC=CC=C6)C7=CC=CC=C7)C(=O)OCC8=C(OC(=O)O8)C)C(C)(C)O | C48H44N6O6
